US07132426B2
2-Iodoaniline (50 g, 228.3 mmol) and 2-ethoxymethylene-malonic acid diethyl ester (50 mL, 251.1 mmol) were mixed and the solution was stirred at 110° C. for 3 h. The crude was dissolved in dichloromethane and it was purified by silica plug. The product was eluted with ethyl acetate/hexanes (10–50%) and the solvent removed under reduced pressure to afford 2-[(2-iodo-phenylamino)-methylene]-malonic acid diethyl ester as an off-white powder (81.4 g, 91.6%). 1H NMR (CDCl3, 400 MHz) δ 1.49 (t, 3H), 1.54 (t, 3H), 4.40 (q, 2H), 4.52 (q, 2H), 7.01–7.05 (m, 1H), 7.36–7.39 (m, 1H), 7.52–7.56 (m, 1H), 8.59 (d, 1H). Exact mass calculated for C14H16INO4 389.01, found 390.1 (MH+).

reactant | 2-Iodoaniline | 228.3 mmol, 50 g | IC1=C(N)C=CC=C1 | C6H6IN
reactant | 2-ethoxymethylene-malonic acid diethyl ester | 251.1 mmol, 50 mL | C(C)OC(C(C(=O)OCC)=COCC)=O | C10H16O5
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-[(2-iodo-phenylamino)-methylene]-malonic acid diethyl ester | 81.4 g, 91.6% | C(C)OC(C(C(=O)OCC)=CNC1=C(C=CC=C1)I)=O | C14H16INO4
